### PR TITLE
[Merged by Bors] - feat(FieldTheory/SeparableDegree): further properties of separable degree of fields and polynomials

### PR DESCRIPTION
**Pull request by acmepjz**
Breaking changes:

- remove `Field.sepDegree` since it is not quite correct for infinite case; will be added in later PR (see #8696)

New definitions (non-exhaustive):

- `Polynomial.natSepDegree`: the separable degree of a polynomial is a natural number, defined to be the number of distinct roots of it over its splitting field.

New results (non-exhaustive):

- `Polynomial.natSepDegree_le_natDegree`: the separable degree of a polynomial is smaller than its degree.
- `Polynomial.natSepDegree_eq_natDegree_iff`: the separable degree of a non-zero polynomial is equal to its degree if and only if it is separable.
- `Polynomial.natSepDegree_dvd_natDegree_of_irreducible`: the separable degree of an irreducible polynomial divides its degree.
- `Field.finSepDegree_adjoin_simple_eq_natSepDegree`: the (finite) separable degree of `F⟮α⟯ / F` is equal to the separable degree of the minimal polynomial of `α` over `F`.
- `Field.finSepDegree_dvd_finrank`: the separable degree of any field extension `E / F` divides the degree of `E / F`.
- `Field.finSepDegree_le_finrank`: the separable degree of a finite extension `E / F` is smaller than the degree of `E / F`.
- `Field.finSepDegree_eq_finrank_iff`: if `E / F` is a finite extension, then its separable degree is equal to its degree if and only if it is a separable extension.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #8860
- [x] depends on: #9134
- [x] depends on: #9260
- [x] depends on: #9261
- [x] depends on: #9262
- [x] depends on: #9263
- [x] depends on: #9271
- [x] depends on: #9272

### CODE REVIEW

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 1]
```diff
@@ -18,78 +18,112 @@ This file contains basics about the separable degree of a field extension.
...
 
-- `Field.sepDegree F E`: the separable degree $[E:F]_s$ of an algebraic extension `E / F` of fields,
-  defined to be the cardinal of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`.
-  (Mathematically, it should be the algebraic closure of `F`, but in order to make the type
-  compatible with `Module.rank F E`, we use the algebraic closure of `E`.)
+  **Remark:** if `E / F` is not algebraic, then this definition makes no mathematical sense,
+  and if it is infinite, then it behaves badly. For example,
+  $\operatorname{Hom}_{\mathbb{Q}\text{-alg}}(\mathbb{Q}(\mu_{p^\infty}),
+  \overline{\mathbb{Q}})\cong\mathbb{Z}_p^\times$ which is uncontable, while
+  $[\mathbb{Q}(\mu_{p^\infty}):\mathbb{Q}]$ is countable.
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:30]: When you say "behaves badly" I think you originally mean that the cardinality #(Emb F E) doesn't behave as expected when E/F is infinite, not `Emb F E` itself. But even for the cardinality, I wouldn't say it behaves badly, because it still behaves quite regularly (equal to 2^deg (sep closure), I believe); it's just the typical behavior of automorphism groups of infinite objects.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 2]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  have hf := Irreducible.hasSeparableContraction q f h
+  rw [natSepDegree_eq_hasSeparableContraction_degree f q hf]
+  exact HasSeparableContraction.dvd_degree hf
+
+/-- A monic irreducible polynomial over a field `F` of exponential characteristic `q` has
+separable degree one if and only if it is of form `Polynomial.expand F (q ^ n) (X - C y)`
+for some `n ∈ ℕ` and `y ∈ F`. -/
+theorem natSepDegree_eq_one_iff_of_monic_irreducible' (q : ℕ) [ExpChar F q] (hm : f.Monic)
+    (hi : Irreducible f) : f.natSepDegree = 1 ↔ ∃ (n : ℕ) (y : F),
+      f = expand F (q ^ n) (X - C y) := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:505]:
```suggestion
    (hi : Irreducible f) : f.natSepDegree = 1 ↔
    ∃ (n : ℕ) (y : F), f = expand F (q ^ n) (X - C y) := by
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 3]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    rcases expChar_is_prime_or_one F q with h | rfl
+    exacts [Nat.Prime.pos h, Nat.one_pos]
+  refine ⟨fun h ↦ ?_, fun ⟨n, y, h⟩ ↦ ?_⟩
+  · obtain ⟨g, h1, n, h2⟩ := Irreducible.hasSeparableContraction q _ hi
+    have h3 : g.natDegree = 1 := by
+      rwa [← h2, natSepDegree_expand_eq_natSepDegree _ q,
+        natSepDegree_eq_natDegree_of_separable g h1] at h
+    replace h3 : g.degree = 1 := (degree_eq_iff_natDegree_eq_of_pos Nat.one_pos).2 h3
+    have hg := eq_X_add_C_of_degree_eq_one h3
+    -- TODO: should extract this as a converse to `Polynomial.Monic.expand`
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:516]: time to do it now?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 4]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+theorem natSepDegree_dvd_natDegree_of_irreducible (h : Irreducible f) :
+    f.natSepDegree ∣ f.natDegree := by
+  obtain ⟨q, _⟩ := ExpChar.exists F
+  have hf := Irreducible.hasSeparableContraction q f h
+  rw [natSepDegree_eq_hasSeparableContraction_degree f q hf]
+  exact HasSeparableContraction.dvd_degree hf
+
+/-- A monic irreducible polynomial over a field `F` of exponential characteristic `q` has
+separable degree one if and only if it is of form `Polynomial.expand F (q ^ n) (X - C y)`
+for some `n ∈ ℕ` and `y ∈ F`. -/
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:502]: I think we usually just write
```suggestion
for some `n : ℕ` and `y : F`. -/
```
rather than common math notation. Same for the next lemma.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 5]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  haveI := Fact.mk hprime
+  simpa only [natSepDegree_eq_natSepDegree_algebraicClosure, aroots_def, map_expand,
+    Fintype.card_coe] using Fintype.card_eq.2 ⟨rootsExpandPowEquivRoots q
+      (f := f.map (algebraMap F (AlgebraicClosure F))) (n := n)⟩
+
+/-- If a polynomial has separable contraction, then its separable degree is equal to its
+separable contraction degree. -/
+theorem natSepDegree_eq_hasSeparableContraction_degree
+    (q : ℕ) [ExpChar F q] (hf : f.HasSeparableContraction q) :
+    f.natSepDegree = hf.degree := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:484]: Could put into namespace HasSeparableContraction for dot notation

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 6]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  obtain ⟨q, _⟩ := ExpChar.exists F
+  have hf := Irreducible.hasSeparableContraction q f h
+  rw [natSepDegree_eq_hasSeparableContraction_degree f q hf]
+  exact HasSeparableContraction.dvd_degree hf
+
+/-- A monic irreducible polynomial over a field `F` of exponential characteristic `q` has
+separable degree one if and only if it is of form `Polynomial.expand F (q ^ n) (X - C y)`
+for some `n ∈ ℕ` and `y ∈ F`. -/
+theorem natSepDegree_eq_one_iff_of_monic_irreducible' (q : ℕ) [ExpChar F q] (hm : f.Monic)
+    (hi : Irreducible f) : f.natSepDegree = 1 ↔ ∃ (n : ℕ) (y : F),
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:504]: I think this could go into Irreducible namespace. Polynomial.Monic namespace would be the second choice. Same for the next lemma.

**Review by alreadydone — COMMENTED** [review]
From a brief skim up to Line 532:

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 7]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  · haveI := adjoin.finiteDimensional h
+    rwa [← finSepDegree_eq_finrank_iff,
+      finSepDegree_adjoin_simple_eq_finrank_iff F E x h.isAlgebraic]
+
+/-- If `x` and `y` are both separable elements, then `F⟮x, y⟯ / F` is a separable extension.
+As a consequence, any rational function of `x` and `y` is also a separable element. -/
+theorem isSeparable_adjoin_two_of_separable {x y : E}
+    (hx : IsIntegral F x ∧ (minpoly F x).Separable)
+    (hy : IsIntegral F y ∧ (minpoly F y).Separable) :
+    IsSeparable F F⟮x, y⟯ := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:698]: It's probably unnecessary to carry the IsIntegral conditions around after #8862?

**Review by alreadydone — COMMENTED** [review]
okay I've now skimmed through the whole PR. Fantastic work! Next time I'll be trying to golf some proofs ...

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:30]: You're right, I rephrased it a little bit. But I didn't mention 2^deg (sep closure) thing.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 8]
```diff
@@ -132,75 +162,47 @@ def embEquivOfEquiv (i : E ≃ₐ[F] K) :
...
-theorem sepDegree_bot'' (K : Type v) [Field K] [Algebra F K] [Algebra E K] [IsScalarTower F E K] :
-    sepDegree F (⊥ : IntermediateField E K) = sepDegree F E := by
-  simpa only [Cardinal.lift_id] using sepDegree_bot' F E K
+theorem finSepDegree_bot' : finSepDegree F (⊥ : IntermediateField E K) = finSepDegree F E :=
+  finSepDegree_eq_of_equiv _ _ _ ((botEquiv E K).restrictScalars F)
 
 @[simp]
-theorem finSepDegree_bot' : finSepDegree F (⊥ : IntermediateField E K) = finSepDegree F E := by
-  simpa only [Cardinal.toNat_lift] using congr_arg Cardinal.toNat (sepDegree_bot' F E K)
+theorem finSepDegree_top' : finSepDegree F (⊤ : IntermediateField E K) = finSepDegree F K :=
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:198]: Oh, you're right.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 9]
```diff
@@ -268,31 +250,543 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+      (eq_C_of_degree_eq_zero hdeg).symm⟩
+  obtain ⟨x, hx⟩ := exists_root_of_splits _
+    (splits_of_splits_of_dvd _ hf h (show g ∣ f from gcd_dvd_left f _)) hdeg
+  rw [Multiset.nodup_iff_count_le_one, not_forall]
+  exact ⟨x, by rw [count_roots]; exact Nat.not_le.mpr <|
+    (one_lt_rootMultiplicity_iff_isRoot_gcd hf).2 hx⟩
+
+/-- The separable degree `Polynomial.natSepDegree` of a polynomial is a natural number,
+defined to be the number of distinct roots of it over its splitting field. -/
+def natSepDegree : ℕ := (f.aroots f.SplittingField).toFinset.card
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:289]: I mimic the `degree` vs. `natDegree`, so I think that `sepDegree 0` is negative infinity. But I don't want to introduce that notation, so I named it `natSepDegree` which means that it's similar to `natDegree` but not `degree`.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:292]: Okay I see the rationale.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:201]: I guess you just need to make `E` explicit?

[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:201]: Sure. Fixed.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:705]: Perhaps. Later I'll go through the whole file to see how many of `IsIntegral` can be removed.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 10]
```diff
@@ -476,14 +472,18 @@ theorem natSepDegree_expand_eq_natSepDegree (q : ℕ) [hF : ExpChar F q] {n : 
...
+namespace HasSeparableContraction
+
+variable {f}
+
 /-- If a polynomial has separable contraction, then its separable degree is equal to its
 separable contraction degree. -/
-theorem natSepDegree_eq_hasSeparableContraction_degree
-    (q : ℕ) [ExpChar F q] (hf : f.HasSeparableContraction q) :
+theorem natSepDegree_eq
+    {q : ℕ} [ExpChar F q] (hf : f.HasSeparableContraction q) :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:486]: You could do
```suggestion
variable {f} in
theorem HasSeparableContraction.natSepDegree_eq
    {q : ℕ} [ExpChar F q] (hf : f.HasSeparableContraction q) :
```
without adding a `namespace` section.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:705]: Unfortunately, the zero polynomial always splits ([Polynomial.splits_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Splits.html#Polynomial.splits_zero)). I don't know why people special cased 0 in the first place, maybe it's related to that Polynomial.roots 0 = 0 (this has to be special cased as a multiset can't be infinite). If you want, you may try to remove the special case and see what happens.

Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:705]: > Unfortunately, the zero polynomial always splits

Oh OK 😅 I made a mistake then.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 10 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:486]: Yes, but `variable {f} in` needs to be written before the comments; I don't know why.

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:486]: I think `in` is a macro that gets expanded to
```
section
variable {f}
...
end
```
so that explains it.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:700]: I propose the following code, extracting from #8862:
```lean
theorem Polynomial.Separable.isIntegral {A B : Type*} [CommRing A] [Ring B] [Algebra A B]
    {x : B} (h : (minpoly A x).Separable) : IsIntegral A x := by
  cases subsingleton_or_nontrivial A
  · haveI := Module.subsingleton A B
    exact ⟨1, monic_one, Subsingleton.elim _ _⟩
  · exact of_not_not fun h' ↦ not_separable_zero (minpoly.eq_zero h' ▸ h)
```

Then I can write:
```lean
example {A B : Type*} [CommRing A] [Ring B] [Algebra A B]
    {x : B} (h : (minpoly A x).Separable) : True := by
  have := h.isIntegral
  sorry
```

What do you think?

Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:700]: Submitted this to #9134.

Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean]: Looks great and I'm glad it's already taken care of!

**Comment by riccardobrasca** [comment]
Is it possible to split the PR? It is currently rather big...

**Comment by alreadydone** [comment]
I'm happy with the content, just haven't checked whether some proofs' lengths are justified :)

**Comment by acmepjz** [comment]
> Is it possible to split the PR? It is currently rather big...

This PR is already split from #8696. It's possible to further split this into two PRs, one is solely for separable degree of polynomials, another one is the application of these to separable degree of fields. But IMHO this makes PRs too fragmented.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 11]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+
+namespace Polynomial
+
+variable {F E}
+
+variable (f : F[X])
+
+/-- If a polynomial has all roots over a field, then it has no repeated roots on that field
+if and only if it is separable. -/
+theorem nodup_roots_iff_of_splits (hf : f ≠ 0) (h : f.Splits (RingHom.id F)) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:270]: Can this go the file where `Polynomial.Separable` is defined?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 12]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  obtain ⟨x, hx⟩ := exists_root_of_splits _
+    (splits_of_splits_of_dvd _ hf h (show g ∣ f from gcd_dvd_left f _)) hdeg
+  rw [Multiset.nodup_iff_count_le_one, not_forall]
+  exact ⟨x, by rw [count_roots]; exact Nat.not_le.mpr <|
+    (one_lt_rootMultiplicity_iff_isRoot_gcd hf).2 hx⟩
+
+/-- The separable degree `Polynomial.natSepDegree` of a polynomial is a natural number,
+defined to be the number of distinct roots of it over its splitting field.
+This is similar to `Polynomial.natDegree` but not `Polynomial.degree`, namely, the separable
+degree of `0` is `0`, but not negative infinity. -/
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:289]:
```suggestion
/-- The separable degree `Polynomial.natSepDegree` of a polynomial is a natural number,
defined to be the number of distinct roots of it over its splitting field.
This is similar to `Polynomial.natDegree` but not to `Polynomial.degree`, namely, the separable
degree of `0` is `0`, not negative infinity. -/
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 13]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+def natSepDegree : ℕ := (f.aroots f.SplittingField).toFinset.card
+
+/-- The separable degree of a polynomial is smaller than its degree. -/
+theorem natSepDegree_le_natDegree : f.natSepDegree ≤ f.natDegree := by
+  have := f.map (algebraMap F f.SplittingField) |>.card_roots'
+  rw [← aroots_def, natDegree_map] at this
+  exact (f.aroots f.SplittingField).toFinset_card_le.trans this
+
+@[simp]
+theorem natSepDegree_X_sub_C {x : F} : (X - C x).natSepDegree = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:299]:
```suggestion
theorem natSepDegree_X_sub_C (x : F) : (X - C x).natSepDegree = 1 := by
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 14]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+@[simp]
+theorem natSepDegree_X : (X : F[X]).natSepDegree = 1 := by
+  simp only [natSepDegree, aroots_X, Multiset.toFinset_singleton, Finset.card_singleton]
+
+/-- A constant polynomial has zero separable degree. -/
+theorem natSepDegree_eq_zero (h : f.natDegree = 0) : f.natSepDegree = 0 := by
+  linarith only [natSepDegree_le_natDegree f, h]
+
+@[simp]
+theorem natSepDegree_C {x : F} : (C x).natSepDegree = 0 := natSepDegree_eq_zero _ (natDegree_C _)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:311]:
```suggestion
theorem natSepDegree_C (x : F) : (C x).natSepDegree = 0 := natSepDegree_eq_zero _ (natDegree_C _)
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 15]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  have := f.map (algebraMap F f.SplittingField) |>.card_roots'
+  rw [← aroots_def, natDegree_map] at this
+  exact (f.aroots f.SplittingField).toFinset_card_le.trans this
+
+@[simp]
+theorem natSepDegree_X_sub_C {x : F} : (X - C x).natSepDegree = 1 := by
+  simp only [natSepDegree, aroots_X_sub_C, Multiset.toFinset_singleton, Finset.card_singleton]
+
+@[simp]
+theorem natSepDegree_X : (X : F[X]).natSepDegree = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:303]: Here and in all the following lemma where it is not possible to infer it, `F` should be explicit.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 16]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+/-- The separable degree of a polynomial is equal to
+the number of distinct roots of it over any algebraically closed field. -/
+theorem natSepDegree_eq_of_isAlgClosed [IsAlgClosed E] :
+    f.natSepDegree = (f.aroots E).toFinset.card :=
+  natSepDegree_eq_of_splits f (IsAlgClosed.splits_codomain f)
+
+end
+
+@[simp]
+theorem natSepDegree_C_mul {x : F} (hx : x ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:380]: `f` should be explicit here and in some of the lemma below (not sure if it already is).

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 17]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    f.natSepDegree ≤ g.natSepDegree := by
+  simp only [natSepDegree_eq_of_isAlgClosed (AlgebraicClosure F), aroots]
+  set f' := f.map (algebraMap F (AlgebraicClosure F))
+  set g' := g.map (algebraMap F (AlgebraicClosure F))
+  have : f'.roots.dedup ≤ g'.roots.dedup :=
+    (Multiset.Nodup.le_dedup_iff_le <| Multiset.nodup_dedup _).2 <| (Multiset.dedup_le _).trans <|
+      roots.le_of_dvd (map_ne_zero h2) <| map_dvd _ h1
+  exact Multiset.card_le_of_le this
+
+/-- If `f` is a polynomial over a perfect ring `R` of characteristic `p`, then there is a bijection
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:425]:
```suggestion
/-- If `f` is a polynomial over a perfect integral domain `R` of characteristic `p`, then there is a bijection
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 18]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    have := eval₂_hom (p := f) (frobeniusEquiv R p).symm.toRingHom x
+    simp only [RingEquiv.toRingHom_eq_coe, RingHom.coe_coe] at this
+    simpa only [← this, eval_map, map_zero] using h⟩
+  refine ⟨toFun, invFun, fun ⟨x, h⟩ ↦ ?_, fun ⟨x, h⟩ ↦ ?_⟩
+  · simp only [RingEquiv.toRingHom_eq_coe, frobeniusEquiv_apply,
+      frobeniusEquiv_symm_apply_frobenius]
+  · simp only [RingEquiv.toRingHom_eq_coe, frobeniusEquiv_apply,
+      frobenius_apply_frobeniusEquiv_symm]
+
+/-- If `f` is a polynomial over a perfect ring `R` of characteristic `p`, then there is a bijection
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:456]:
```suggestion
/-- If `f` is a polynomial over a perfect integral domain `R` of characteristic `p`, then there is a bijection
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 19]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  cases' hF with _ _ hprime _
+  · simp only [one_pow, expand_one]
+  haveI := Fact.mk hprime
+  simpa only [natSepDegree_eq_of_isAlgClosed (AlgebraicClosure F), aroots_def, map_expand,
+    Fintype.card_coe] using Fintype.card_eq.2 ⟨rootsExpandPowEquivRoots q
+      (f := f.map (algebraMap F (AlgebraicClosure F))) (n := n)⟩
+
+variable {f} in
+/-- If a polynomial has separable contraction, then its separable degree is equal to its
+separable contraction degree. -/
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:481]:
```suggestion
/-- If a polynomial has separable contraction, then its separable degree is equal to the degree of the given separable contraction. -/
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 20]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    f.natSepDegree = hf.degree := by
+  have hf' := hf
+  obtain ⟨g, h1⟩ := hf'
+  rw [← IsSeparableContraction.degree_eq q hf g h1]
+  obtain ⟨h1, m, h2⟩ := h1
+  rw [← h2, natSepDegree_expand_eq_natSepDegree]
+  exact natSepDegree_eq_natDegree_of_separable g h1
+
+/-- The separable degree of an irreducible polynomial divides its degree. -/
+theorem natSepDegree_dvd_natDegree_of_irreducible (h : Irreducible f) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:493]: This can go in the `Irreducible` section below.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 21]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  have hf := Irreducible.hasSeparableContraction q f h
+  rw [hf.natSepDegree_eq]
+  exact HasSeparableContraction.dvd_degree hf
+
+section Irreducible
+
+variable {f}
+
+/-- A monic irreducible polynomial over a field `F` of exponential characteristic `q` has
+separable degree one if and only if it is of form `Polynomial.expand F (q ^ n) (X - C y)`
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:505]:
```suggestion
separable degree one if and only if it is of the form `Polynomial.expand F (q ^ n) (X - C y)`
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 22]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+        natSepDegree_eq_natDegree_of_separable g h1] at h
+    replace h3 : g.degree = 1 := (degree_eq_iff_natDegree_eq_of_pos Nat.one_pos).2 h3
+    have hg := eq_X_add_C_of_degree_eq_one h3
+    rw [← h2, monic_expand_iff (Nat.pos_pow_of_pos n hq), Monic] at hm
+    rw [hm, map_one, one_mul] at hg
+    exact ⟨n, -(g.coeff 0), by rw [map_neg, sub_neg_eq_add, ← hg, h2]⟩
+  rw [h, natSepDegree_expand_eq_natSepDegree _ q, natSepDegree_X_sub_C]
+
+/-- A monic irreducible polynomial over a field `F` of exponential characteristic `q` has
+separable degree one if and only if it is of form `X ^ (q ^ n) - C y`
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:526]:
```suggestion
separable degree one if and only if it is of the form `X ^ (q ^ n) - C y`
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 23]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+
+end Irreducible
+
+end Polynomial
+
+namespace IntermediateField
+
+/-- The (finite) separable degree of `F⟮α⟯ / F` is equal to the separable degree of the
+minimal polynomial of `α` over `F`. -/
+theorem finSepDegree_adjoin_simple_eq_natSepDegree (α : E) (halg : IsAlgebraic F α) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:540]:
```suggestion
theorem finSepDegree_adjoin_simple_eq_natSepDegree {α : E} (halg : IsAlgebraic F α) :
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 24]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  exact Nat.le_of_dvd finrank_pos <| finSepDegree_adjoin_simple_dvd_finrank F E α
+
+/-- If `α` is algebraic over `F`, then the separable degree of `F⟮α⟯ / F` is equal to the degree
+of `F⟮α⟯ / F` if and only if `α` is a separable element. -/
+theorem finSepDegree_adjoin_simple_eq_finrank_iff (α : E) (halg : IsAlgebraic F α) :
+    finSepDegree F F⟮α⟯ = finrank F F⟮α⟯ ↔ (minpoly F α).Separable := by
+  rw [finSepDegree_adjoin_simple_eq_natSepDegree F E α halg, adjoin.finrank halg.isIntegral,
+    natSepDegree_eq_natDegree_iff _ (minpoly.ne_zero halg.isIntegral)]
+
+-- TODO: move to suitable file
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:573]: Can you take care of the TODO please?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 25]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+minimal polynomial of `α` over `F`. -/
+theorem finSepDegree_adjoin_simple_eq_natSepDegree (α : E) (halg : IsAlgebraic F α) :
+    finSepDegree F F⟮α⟯ = (minpoly F α).natSepDegree := by
+  have : finSepDegree F F⟮α⟯ = _ := Nat.card_congr
+    (algHomAdjoinIntegralEquiv F (K := AlgebraicClosure F⟮α⟯) halg.isIntegral)
+  rw [this, Nat.card_eq_fintype_card, natSepDegree_eq_of_isAlgClosed (E := AlgebraicClosure F⟮α⟯)]
+  exact Eq.trans (by simp only [Multiset.mem_toFinset]) (Fintype.card_coe _)
+
+-- The separable degree of `F⟮α⟯ / F` divides the degree of `F⟮α⟯ / F`.
+-- Marked as `private` because it is an unconditional special case of `finSepDegree_dvd_finrank`.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:548]:
```suggestion
-- Marked as `private` because it is an special case of `finSepDegree_dvd_finrank`.
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 26]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+/-- The separable degree of a finite extension `E / F` is smaller than the degree of `E / F`. -/
+theorem finSepDegree_le_finrank [FiniteDimensional F E] :
+    finSepDegree F E ≤ finrank F E := Nat.le_of_dvd finrank_pos <| finSepDegree_dvd_finrank F E
+
+/-- If `E / F` is a separable extension, then its separable degree is equal to its degree.
+When `E / F` is infinite, it means that `Field.Emb F E` has infinitely many elements.
+(But the cardinality of `Field.Emb F E` is not equal to `Module.rank F E` in general!) -/
+theorem finSepDegree_eq_finrank_of_isSeparable [IsSeparable F E] :
+    finSepDegree F E = finrank F E := by
+  clear! K
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:635]: Why is this line needed?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 27]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    rintro (rfl | rfl)
+    exacts [hx.isIntegral, hy.isIntegral]
+  rw [← finSepDegree_eq_finrank_iff]
+  have halg' := hy.isIntegral.isAlgebraic.tower_top L
+  have heq : _ * _ = _ * _ := congr_arg₂ (· * ·)
+    (finSepDegree_adjoin_simple_eq_finrank_iff F E x hx.isIntegral.isAlgebraic |>.2 hx)
+    (finSepDegree_adjoin_simple_eq_finrank_iff L E y halg' |>.2
+      (hy.map (f := algebraMap F F⟮x⟯) |>.of_dvd (minpoly.dvd_map_of_isScalarTower F L y)))
+  let M := L⟮y⟯
+  letI : Algebra L M := Subalgebra.algebra M.toSubalgebra
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:711]: I think you can use `let` and `have` everywhere.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 28]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  letI : Module E' E'⟮x⟯ := Algebra.toModule
+  letI : SMul E' E'⟮x⟯ := Algebra.toSMul
+  haveI : IsScalarTower F E' E'⟮x⟯ := IntermediateField.isScalarTower E'⟮x⟯
+  haveI : FiniteDimensional F E'⟮x⟯ := FiniteDimensional.trans F E' E'⟮x⟯
+  have := finSepDegree_mul_finSepDegree_of_isAlgebraic F E' E'⟮x⟯ (IsSeparable.isAlgebraic _ _)
+  rw [finSepDegree_eq_finrank_of_isSeparable F E',
+    finSepDegree_eq_finrank_of_isSeparable E' E'⟮x⟯,
+    FiniteDimensional.finrank_mul_finrank F E' E'⟮x⟯,
+    eq_comm, finSepDegree_eq_finrank_iff F E'⟮x⟯] at this
+  change IsSeparable F (restrictScalars F E'⟮x⟯) at this
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:758]: Do you need this line (`this` is not used after).

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 29]
```diff
@@ -268,31 +249,539 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  separable_of_mem_isSeparable F E <| F⟮x, y⟯.add_mem (subset_adjoin F _ (Set.mem_insert x {y}))
+    (subset_adjoin F _ (Set.mem_insert_of_mem x rfl))
+
+/-- Any element `x` of `F` is a separable element of `E / F` when embedded into `E`. -/
+theorem separable_algebraMap (x : F) : (minpoly F ((algebraMap F E) x)).Separable := by
+  rw [minpoly.algebraMap_eq (algebraMap F E).injective]
+  exact IsSeparable.separable F x
+
+/-- If `x` is a separable element, then `x⁻¹` is also a separable element. -/
+theorem separable_inv (x : E) (hx : (minpoly F x).Separable) : (minpoly F x⁻¹).Separable :=
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/SeparableDegree.lean:783]: Maybe it is worth to introduce the... subfield/intermediate field/whatever of separable elements. What do you think?

**Review by riccardobrasca — COMMENTED** [review]
Can you please check the impliciteness of the variables? I've commented some of them, but I have the impression there are several others. Feel free to make a variable explicit even if its type can be inferred if you have a reason to do so, but the opposite should be avoided in my opinion.

File: Mathlib/Data/Polynomial/Expand.lean [hunk 30]
```diff
@@ -170,9 +170,15 @@ theorem natDegree_expand (p : ℕ) (f : R[X]) : (expand R p f).natDegree = f.nat
...
 
-theorem Monic.expand {p : ℕ} {f : R[X]} (hp : 0 < p) (h : f.Monic) : (expand R p f).Monic := by
-  rw [Monic.def, Polynomial.leadingCoeff, natDegree_expand, coeff_expand hp]
-  simp [hp, h]
+theorem leadingCoeff_expand {p : ℕ} {f : R[X]} (hp : 0 < p) :
+    (expand R p f).leadingCoeff = f.leadingCoeff := by
+  simp only [leadingCoeff, natDegree_expand, coeff_expand hp, dvd_mul_left, ite_true,
+    Nat.mul_div_cancel _ hp]
+
+theorem monic_expand_iff {p : ℕ} {f : R[X]} (hp : 0 < p) : (expand R p f).Monic ↔ f.Monic := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/Polynomial/Expand.lean:178]: I'm not sure about this, since this makes `rw [monic_expand_iff hp]` becomes `rw [monic_expand_iff _ hp]`, and breaks the following `alias ... = monic_expand_iff` (the original `Monic.expand` has `f` implicit).

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 31]
```diff
@@ -18,78 +18,113 @@ This file contains basics about the separable degree of a field extension.
 
 ## Main definitions
 
-- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`.
+- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`
+  (mathematically, it should be the algebraic closure of `F`, but in order to make its cardinality
+  has the same type with `Module.rank F E`, we use the algebraic closure of `E`).
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:23]: see https://github.com/leanprover-community/mathlib4/pull/8117#discussion_r1381535021 :

> > Regarding
> > > Mathematically, it should be the algebraic closure of F, but in order to make the type compatible with Module.rank F E, we use the algebraic closure of E.
> > 
> > 
> > I don't quite understand the difficulty of working with `AlgebraicClosure F`. I think it would make the inductive step to show multiplicativity of separable degree slightly easier.
> 
> Because the type of `Cardinal.mk (E →ₐ[F] (AlgebraicClosure F))` is `Cardinal.{max u v}`, while the type of `Cardinal.mk (E →ₐ[F] (AlgebraicClosure E))` is `Cardinal.{v}`, which is the same as `Module.rank F E`. This allows us to write `sepDegree F E = Module.rank F E` without mentioning `Cardinal.lift`.

Oh but that was a historical remark, since now `sepDegree` gets a new definition.

File: Mathlib/Data/Polynomial/Expand.lean (hunk 30 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Data/Polynomial/Expand.lean:178]: Yeah I think we it's conventional to make variables rewrite (Eq or Iff) lemmas implicit if they appear in both sides.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 11 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:270]: Sure, I'll check later.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 27 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:711]: You have to give it a name (maybe an underscore) to use `let`.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 29 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:783]: It's [here](https://github.com/leanprover-community/mathlib4/pull/8696/files#diff-fbae6aa6a45b5781c17dc0397d1edfbcf1ed608887c0c6aa87cf2f0a57d44145R86-R96) in another file so you just need to wait for another PR :)

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 27 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/SeparableDegree.lean:711]: Yeah. We should decide once and for all a preferred style.

File: Mathlib/Data/Polynomial/Expand.lean [hunk 32]
```diff
@@ -170,9 +170,15 @@ theorem natDegree_expand (p : ℕ) (f : R[X]) : (expand R p f).natDegree = f.nat
     exact mt leadingCoeff_eq_zero.1 hf
 #align polynomial.nat_degree_expand Polynomial.natDegree_expand
 
-theorem Monic.expand {p : ℕ} {f : R[X]} (hp : 0 < p) (h : f.Monic) : (expand R p f).Monic := by
-  rw [Monic.def, Polynomial.leadingCoeff, natDegree_expand, coeff_expand hp]
-  simp [hp, h]
+theorem leadingCoeff_expand {p : ℕ} {f : R[X]} (hp : 0 < p) :
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/Polynomial/Expand.lean:173]: I think the reason is the same as the `monic_expand_iff`: this change makes `rw [leadingCoeff_expand hp] becomes `rw [leadingCoeff_expand _ hp]`.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 15 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:303]: Oh but in [Polynomial.natDegree_X_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Degree/Definitions.html#Polynomial.natDegree_X_le) the ring is implicit; I just mimic the pattern of the existing API.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 16 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:380]: In [Polynomial.natDegree_C_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Degree/Lemmas.html#Polynomial.natDegree_C_mul) the `f` is implicit.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:635]: Without this the following `wlog` becomes buggy (I think).

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 27 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:711]: I assume that for instances it's preferred to use `letI` and `haveI`? At least I see these in previous files.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 28 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:758]: This is an instance used in the following `separable_of_mem_isSeparable`.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 29 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:783]: > It's [here](https://github.com/leanprover-community/mathlib4/pull/8696/files#diff-fbae6aa6a45b5781c17dc0397d1edfbcf1ed608887c0c6aa87cf2f0a57d44145R86-R96) in a file untouched by this PR so you just need to wait for another PR :)

Oh but that definition makes use of these `separable_*` results XD

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 20 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:493]: Sure, will check later.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 24 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:573]: Sure, will check later.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 29 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:783]: Yeah, hence this PR is prerequisite to the follow-up PR :)

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 33]
```diff
@@ -268,31 +249,489 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+/-- A non-constant polynomial has non-zero separable degree. -/
+theorem natSepDegree_ne_zero (h : f.natDegree ≠ 0) : f.natSepDegree ≠ 0 := by
+  rw [natSepDegree, ne_eq, Finset.card_eq_zero, ← ne_eq, ← Finset.nonempty_iff_ne_empty]
+  use rootOfSplits _ (SplittingField.splits f) (ne_of_apply_ne _ h)
+  rw [Multiset.mem_toFinset, mem_aroots]
+  exact ⟨ne_of_apply_ne _ h, map_rootOfSplits _ (SplittingField.splits f) (ne_of_apply_ne _ h)⟩
+
+/-- A polynomial has zero separable degree if and only if it is constant. -/
+theorem natSepDegree_eq_zero_iff : f.natSepDegree = 0 ↔ f.natDegree = 0 :=
+  ⟨by simpa only [ne_eq, not_not] using mt (natSepDegree_ne_zero f), natSepDegree_eq_zero f⟩
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:312]:
```suggestion
  ⟨(natSepDegree_ne_zero f).mtr, natSepDegree_eq_zero f⟩
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 34]
```diff
@@ -268,31 +249,489 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+theorem natSepDegree_eq_natDegree_iff (hf : f ≠ 0) :
+    f.natSepDegree = f.natDegree ↔ f.Separable := by
+  simp_rw [← card_rootSet_eq_natDegree_iff_of_splits hf (SplittingField.splits f),
+    rootSet_def, Finset.coe_sort_coe, Fintype.card_coe]
+  rfl
+
+/-- If a polynomial is separable, then its separable degree is equal to its degree. -/
+theorem natSepDegree_eq_natDegree_of_separable (h : f.Separable) :
+    f.natSepDegree = f.natDegree :=
+  (natSepDegree_eq_natDegree_iff f (fun h' ↦ not_separable_zero (h' ▸ h))).2 h
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:329]: maybe extract `Separable.ne_zero` as a converse to `not_separable_zero `.

File: Mathlib/Data/Polynomial/Expand.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/Expand.lean:173]: Well, you can switch the order of `hp` and `f` and your `rw` will work, but if you prefer we can keep `f` implicit.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 26 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/SeparableDegree.lean:585]: Can you add a comment explaining this?

File: Mathlib/Data/Polynomial/Expand.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/Polynomial/Expand.lean:173]: > Well, you can switch the order of `hp` and `f` and your `rw` will work, but if you prefer we can keep `f` implicit.

IMHO I'd like to keep `f` implicit; the existing results has the order `f` then `hp`, so maybe it's a little bit awkward for the newly added results with parameter order changed.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:585]: Sure.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 35]
```diff
@@ -268,31 +249,488 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  let L := F⟮x⟯
+  haveI : FiniteDimensional F F⟮x, y⟯ := finiteDimensional_adjoin fun _ ↦ by
+    rintro (rfl | rfl)
+    exacts [hx.isIntegral, hy.isIntegral]
+  rw [← finSepDegree_eq_finrank_iff]
+  have halg' := hy.isIntegral.isAlgebraic.tower_top L
+  have heq : _ * _ = _ * _ := congr_arg₂ (· * ·)
+    (finSepDegree_adjoin_simple_eq_finrank_iff F E x hx.isIntegral.isAlgebraic |>.2 hx)
+    (finSepDegree_adjoin_simple_eq_finrank_iff L E y halg' |>.2
+      (hy.map (f := algebraMap F F⟮x⟯) |>.of_dvd (minpoly.dvd_map_of_isScalarTower F L y)))
```
Comment (acmepjz) [inline Mathlib/FieldTheory/SeparableDegree.lean:658]: This piece of code appears several times. Is it a good idea to extract it into a new lemma, for example `Polynomial.Separable.map_minpoly`? Namely, `Separable (minpoly F x)` implies `Separable (minpoly E x)`.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 36]
```diff
@@ -18,78 +18,113 @@ This file contains basics about the separable degree of a field extension.
...
+  will show that (`Field.finSepDegree_eq`), if `Field.Emb F E` is finite, then these two
+  definitions coincide.
+
+- `Polynomial.natSepDegree`: the separable degree of a polynomial is a natural number,
+  defined to be the number of distinct roots of it over its splitting field.
+
+- `Polynomial.rootsExpandEquivRoots`, `Polynomial.rootsExpandPowEquivRoots`: if `f` is a polynomial
+  over a perfect ring `R` of characteristic `p`, then there is a bijection from the set of roots of
+  `Polynomial.expand R p f` (resp. `Polynomial.expand R (p ^ n) f`) to the set of roots of `f`.
+  In fact it's given by `x ↦ x ^ p` (resp. `x ↦ x ^ (p ^ n)`), but we don't give a proof here.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:52]: I mean I haven't provide a `rootsExpandEquivRoots_apply` or something similar which state that it maps `x` to `x ^ p`. Or is it `rfl`?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 37]
```diff
@@ -268,31 +249,548 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+
+variable {f} in
+/-- If a polynomial has separable contraction, then its separable degree is equal to the degree of
+the given separable contraction. -/
+theorem HasSeparableContraction.natSepDegree_eq
+    {q : ℕ} [ExpChar F q] (hf : f.HasSeparableContraction q) :
+    f.natSepDegree = hf.degree := by
+  have hf' := hf
+  obtain ⟨g, h1⟩ := hf'
+  rw [← IsSeparableContraction.degree_eq q hf g h1]
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:430]: > The API around `contraction` seems under-developed, e.g. there's no `isSeparableContraction_contraction` which is just `choose_spec`. You wouldn't need the rewrite if you add that lemma.

Let me check later.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 38]
```diff
@@ -268,31 +249,548 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+
+variable {F}
+
+variable {f : F[X]}
+
+/-- The separable degree of an irreducible polynomial divides its degree. -/
+theorem natSepDegree_dvd_natDegree (h : Irreducible f) :
+    f.natSepDegree ∣ f.natDegree := by
+  obtain ⟨q, _⟩ := ExpChar.exists F
+  have hf := Irreducible.hasSeparableContraction q f h
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:447]: I think it's reasonable. Let me check later.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 36 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:52]: `rootsExpandEquivRoots` should be `rfl` (with either your code or mine), but `rootsExpandPowEquivRoots` won't be. I think you can construct `rootsExpandPowEquivRoots` in a similar way to `rootsExpandEquivRoots` and it won't be much more work ... or you can also compose `rootsExpandPowEquivRoots` with `Equiv.Set.ofEq` to obtain `rootsExpandEquivRoots`.

[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:52]: Oh, I think these two results should be moved to earlier files, since their statement and proof do not involve separable degree.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean:52]: #find_home doesn't suggest an earlier file though ... but I've observed that #find_home can have false negatives.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 37 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:430]: > The API around `contraction` seems under-developed, e.g. there's no `isSeparableContraction_contraction` which is just `choose_spec`. You wouldn't need the rewrite if you add that lemma.

Sorry, but I don't quite get what you mean. All I can think of is to extract one of the `rw` to `IsSeparableContraction.natSepDegree_eq`, and I only need one `rw` in each of the result. Is it OK?

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 38 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:447]: Mathlib/RingTheory/Polynomial/SeparableDegree.lean, L113:
```lean
#align irreducible.has_separable_contraction Polynomial.Irreducible.hasSeparableContraction
```
I suspect that it was in the global namespace before at some time? Can the history be checked?

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean]: Yes it was. [irreducible.has_separable_contraction](https://leanprover-community.github.io/mathlib_docs/field_theory/separable_degree.html#irreducible.has_separable_contraction). It's changed [during the port](https://github.com/leanprover-community/mathlib4/pull/4287/files#diff-7547c0e47112228517421debb0e1485c210d28ab2e150495d8c140f3f08e31a4R110-R116) for unknown reason, maybe inadvertently. (Does @apurvnakade remember?)

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 37 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean]: You can also do
```
  conv_lhs => rw [← h2, natSepDegree_expand_eq_natSepDegree]
  exact natSepDegree_eq_natDegree_of_separable _ h1
```
to avoid the `f` inside `hf` in the RHS being rewritten, causing a motive not type correct error.

**Comment by riccardobrasca** [comment]
Can you please fix the conflict?

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 38 above)
[the remark this answers is not in the document]
Comment (apurvanakade) [reply Mathlib/FieldTheory/SeparableDegree.lean]: Looking at the commit history it looks like mathport did not preserve the `_root_` anywhere!

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/SeparableDegree.lean]: Thanks! Indeed it's a mathport problem that [has been reported](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/mathport.20_root_/near/312413814), but a fix was never implemented.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 39]
```diff
@@ -268,31 +244,492 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+separable degree one if and only if it is of the form `Polynomial.expand F (q ^ n) (X - C y)`
+for some `n : ℕ` and `y : F`. -/
+theorem natSepDegree_eq_one_iff_of_monic' (q : ℕ) [ExpChar F q] (hm : f.Monic)
+    (hi : Irreducible f) : f.natSepDegree = 1 ↔
+    ∃ (n : ℕ) (y : F), f = expand F (q ^ n) (X - C y) := by
+  refine ⟨fun h ↦ ?_, fun ⟨n, y, h⟩ ↦ ?_⟩
+  · obtain ⟨g, h1, n, rfl⟩ := hi.hasSeparableContraction q
+    have h2 : g.natDegree = 1 := by
+      rwa [natSepDegree_expand _ q,
+        natSepDegree_eq_natDegree_of_separable g h1] at h
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:435]:
```suggestion
      rwa [natSepDegree_expand _ q, natSepDegree_eq_natDegree_of_separable g h1] at h
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 40]
```diff
@@ -268,31 +244,492 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  let g := X - C y
+  have hzero : Polynomial.aeval x (expand F (q ^ n) g) = 0 := by
+    simp only [map_sub, expand_X, expand_C, map_pow, aeval_X, aeval_C, hx, sub_self]
+  have hnezero : expand F (q ^ n) g ≠ 0 :=
+    (expand_ne_zero (expChar_pow_pos F q n)).2 <| X_sub_C_ne_zero y
+  have h1 := natSepDegree_le_of_dvd _ _ (minpoly.dvd F x hzero) hnezero
+  rw [natSepDegree_expand, natSepDegree_X_sub_C] at h1
+  have h2 := minpoly.natDegree_pos <| IsAlgebraic.isIntegral ⟨_, hnezero, hzero⟩
+  rw [Nat.pos_iff_ne_zero, ← natSepDegree_ne_zero_iff, ← Nat.pos_iff_ne_zero] at h2
+  exact le_antisymm h1 h2
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:493]: If you introduce a lemma
```
theorem natSepDegree_X_pow_char_sub_C (q : ℕ) [ExpChar F q] (n : ℕ) (y : F) :
    (X ^ q ^ n - C y).natSepDegree = 1 := by
  rw [← expand_X, ← expand_C (q ^ n), ← map_sub, natSepDegree_expand, natSepDegree_X_sub_C]
```
you can unify both directions of the proof:
```suggestion
theorem natSepDegree_eq_one_iff_mem_pow : (minpoly F x).natSepDegree = 1 ↔
    ∃ n : ℕ, x ^ q ^ n ∈ (algebraMap F E).range := by
  convert_to _ ↔ ∃ (n : ℕ) (y : F), Polynomial.aeval x (X ^ q ^ n - C y) = 0
  · simp_rw [RingHom.mem_range, map_sub, map_pow, aeval_C, aeval_X, sub_eq_zero, eq_comm]
  refine ⟨fun h ↦ ?_, fun ⟨n, y, h⟩ ↦ ?_⟩
  · obtain ⟨n, y, hx⟩ := (minpoly.natSepDegree_eq_one_iff_eq_X_pow_sub_C q).1 h
    exact ⟨n, y, hx ▸ aeval F x⟩
  have hnezero := X_pow_sub_C_ne_zero (expChar_pow_pos F q n) y
  refine ((natSepDegree_le_of_dvd _ _ (minpoly.dvd F x h) hnezero).trans_eq <| 
    natSepDegree_X_pow_char_sub_C q n y).antisymm ?_
  rw [Nat.one_le_iff_ne_zero, natSepDegree_ne_zero_iff, ← Nat.one_le_iff_ne_zero]
  exact minpoly.natDegree_pos <| IsAlgebraic.isIntegral ⟨_, hnezero, h⟩
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 41]
```diff
@@ -268,31 +244,492 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  refine ⟨fun h ↦ ?_, fun ⟨n, h⟩ ↦ (natSepDegree_eq_one_iff_mem_pow q).2 ?_⟩
+  · obtain ⟨n, y, h⟩ := (natSepDegree_eq_one_iff_eq_X_pow_sub_C q).1 h
+    have hx := congr_arg (Polynomial.aeval x) h.symm
+    rw [minpoly.aeval, map_sub, map_pow, aeval_X, aeval_C, sub_eq_zero] at hx
+    apply_fun map (algebraMap F E) at h
+    rw [Polynomial.map_sub, Polynomial.map_pow, Polynomial.map_X, Polynomial.map_C,
+      ← hx, map_pow, ← sub_pow_expChar_pow] at h
+    exact ⟨n, h⟩
+  apply_fun constantCoeff at h
+  simp only [constantCoeff_apply, coeff_map, map_pow, map_sub, coeff_X_zero, coeff_C_zero] at h
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:511]: little golf
```suggestion
    rw [minpoly.aeval, map_sub, map_pow, aeval_X, aeval_C, sub_eq_zero, eq_comm] at hx
    use n
    rw [h, Polynomial.map_sub, Polynomial.map_pow, map_X, map_C, hx, map_pow, ← sub_pow_expChar_pow]
  apply_fun constantCoeff at h
  simp_rw [map_pow, map_sub, constantCoeff_apply, coeff_map, coeff_X_zero, coeff_C_zero] at h
```

**Review by alreadydone — APPROVED** [review]
Thanks, I think this is my final review on this PR!

**Comment by riccardobrasca** [comment]
I also think this is almost ready! Since #9291 has been merged, can you see if you can golf some proof?

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 42]
```diff
@@ -268,31 +244,492 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  letI : Algebra L M := Subalgebra.algebra M.toSubalgebra
+  letI : Module L M := Algebra.toModule
+  letI : SMul L M := Algebra.toSMul
+  haveI : IsScalarTower F L M := IntermediateField.isScalarTower M
+  haveI : FiniteDimensional F L := adjoin.finiteDimensional hx.isIntegral
+  haveI : FiniteDimensional L M := adjoin.finiteDimensional halg'.isIntegral
+  rw [finSepDegree_mul_finSepDegree_of_isAlgebraic F L M (Algebra.IsAlgebraic.of_finite L M),
+    FiniteDimensional.finrank_mul_finrank F L M] at heq
+  change finSepDegree F (restrictScalars F M) = finrank F (restrictScalars F M) at heq
+  rwa [adjoin_adjoin_left F {x} {y}, Set.union_comm, Set.union_singleton] at heq
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:668]: > I have wondered about the result about adjoining an arbitrary set of elements, but then I realized that follows easily once you show the separable elements form a field ... it also follows that sup and iSup of separable intermediate fields are separable.

Yes, they are [IntermediateField.isSeparable_adjoin_iff_separable](https://github.com/leanprover-community/mathlib4/blob/c0775a3744e3b5c473405ce86350edc97aaca2a7/Mathlib/FieldTheory/SeparableClosure.lean#L186) and [IntermediateField.isSeparable_iSup](https://github.com/leanprover-community/mathlib4/blob/c0775a3744e3b5c473405ce86350edc97aaca2a7/Mathlib/FieldTheory/SeparableClosure.lean#L230) in #8696.

**Comment by acmepjz** [comment]
> I also think this is almost ready! Since #9291 has been merged, can you see if you can golf some proof?

Sure. Let me try how many of them can be removed.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 43]
```diff
@@ -268,31 +244,451 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+/-- The separable degree of any field extension `E / F` divides the degree of `E / F`. -/
+theorem finSepDegree_dvd_finrank : finSepDegree F E ∣ finrank F E := by
+  by_cases hfd : FiniteDimensional F E
+  · let P : IntermediateField F E → Prop := fun K ↦ finSepDegree F K ∣ finrank F K
+    rw [← finSepDegree_top F, ← finrank_top F E]
+    refine induction_on_adjoin P ?_ (fun L x h ↦ ?_) ⊤
+    · simp only [finSepDegree_bot, IntermediateField.finrank_bot, one_dvd]
+    simp only at h ⊢
+    have hdvd := mul_dvd_mul h <| finSepDegree_adjoin_simple_dvd_finrank L E x
+    set M := L⟮x⟯; clear_value M
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:562]: I think the `clear_value` is probably unnecessary

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 44]
```diff
@@ -268,31 +244,451 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+    linarith only [h', hd, Nat.le_mul_of_pos_right (m := finrank F L) (Nat.pos_of_ne_zero hd')]
+  let P : IntermediateField F E → Prop := fun K ↦ finSepDegree F K = finrank F K
+  rw [← finSepDegree_top F, ← finrank_top F E]
+  refine induction_on_adjoin P ?_ (fun L x h ↦ ?_) ⊤
+  · simp only [finSepDegree_bot, IntermediateField.finrank_bot]
+  simp only at h ⊢
+  have heq : _ * _ = _ * _ := congr_arg₂ (· * ·) h <|
+    (finSepDegree_adjoin_simple_eq_finrank_iff L E x (IsAlgebraic.of_finite L x)).2 <|
+      (IsSeparable.separable F x).map_minpoly L
+  set M := L⟮x⟯; clear_value M
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:595]: same here

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 45]
```diff
@@ -268,31 +244,451 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  exact IsSeparable.trans F F⟮x⟯ F⟮x⟯⟮y⟯
+
+namespace Field
+
+/-- If `x` and `y` are both separable elements, then `x * y` is also a separable element. -/
+theorem separable_mul {x y : E} (hx : (minpoly F x).Separable) (hy : (minpoly F y).Separable) :
+    (minpoly F (x * y)).Separable :=
+  haveI := isSeparable_adjoin_pair_of_separable F E hx hy
+  separable_of_mem_isSeparable F E <| F⟮x, y⟯.mul_mem (subset_adjoin F _ (Set.mem_insert x {y}))
+    (subset_adjoin F _ (Set.mem_insert_of_mem x rfl))
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:675]: (untested) some people might prefer API lemmas over defeq, but I personally think there's no harm exploiting defeq here (same in `separable_add` below) ...
```suggestion
  separable_of_mem_isSeparable F E <| F⟮x, y⟯.mul_mem (subset_adjoin F _ (.inl rfl))
    (subset_adjoin F _ (.inr rfl))
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 46]
```diff
@@ -18,78 +18,108 @@ This file contains basics about the separable degree of a field extension.
 
 ## Main definitions
 
-- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`.
+- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`
+  (mathematically, it should be the algebraic closure of `F`, but in order to make its cardinality
+  has the same type with `Module.rank F E`, we use the algebraic closure of `E`).
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:23]: maybe
```suggestion
- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`
  (the algebraic closure of `F` is usually used in the literature, but our definition has the advantage
  that `Field.Emb F E` lies in the same universe as `E` rather than the maximum over `F` and `E`).
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 47]
```diff
@@ -18,78 +18,108 @@ This file contains basics about the separable degree of a field extension.
...
-  (Mathematically, it should be the algebraic closure of `F`, but in order to make the type
-  compatible with `Module.rank F E`, we use the algebraic closure of `E`.)
+  **Remark:** if `E / F` is not algebraic, then this definition makes no mathematical sense,
+  and if it is infinite, then its cardinality doesn't behave as expected (namely, not equal to the
+  field extension degree of `separableClosure F E / F`). For example,
+  $\operatorname{Emb}_{\mathbb{Q}}(\mathbb{Q}(\mu_{p^\infty}))\cong\mathbb{Z}_p^\times$ which is
+  uncontable, while $[\mathbb{Q}(\mu_{p^\infty}):\mathbb{Q}]$ is countable.
+
+  **TODO:** prove or disprove that if `E / F` is algebraic and `Emb F E` is infinite, then
+  `Field.Emb F E` and `2 ^ Module.rank F (separableClosure F E)` have the same cardinality.
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:33]:
```suggestion
  `Field.Emb F E` has cardinality `2 ^ Module.rank F (separableClosure F E)`.
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 48]
```diff
@@ -18,78 +18,108 @@ This file contains basics about the separable degree of a field extension.
...
+  the degree of `E / F`.
 
-- Prove that `[E:F]_s = 1` if and only if `E / F` is purely inseparable.
+- `Field.finSepDegree_le_finrank`: the separable degree of a finite extension `E / F` is smaller
+  than the degree of `E / F`.
+
+- `Field.finSepDegree_eq_finrank_iff`: if `E / F` is a finite extension, then its separable degree
+  is equal to its degree if and only if it is a separable extension.
+
+- `IntermediateField.isSeparable_adjoin_simple_iff_separable`: `F⟮x⟯ / F` is a separable extension
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:109]: Side comment: I think the phrase `adjoin_simple` is strange. It's a **simple** extension obtained by **adjoining** a **singleton**. Indeed [similar constructions](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Adjoin/Basic.html#Algebra.self_mem_adjoin_singleton) are called `adjoin_singleton`, but I think we could just use the shorthand `simple` here which also agrees with math terminology. I think we might open a PR to rename all `adjoin_simple` to `simple`.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 49]
```diff
@@ -268,31 +244,451 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] (halg : Algebra.
...
+  · rw [finrank_of_infinite_dimensional hfd]
+    have halg := IsSeparable.isAlgebraic F E
+    obtain ⟨L, h, h'⟩ := exists_lt_finrank_of_infinite_dimensional halg hfd (finSepDegree F E)
+    haveI : IsSeparable F L := isSeparable_tower_bot_of_isSeparable F L E
+    have hd := finSepDegree_mul_finSepDegree_of_isAlgebraic F L E (halg.tower_top L)
+    rw [H L h] at hd
+    by_cases hd' : finSepDegree L E = 0
+    · rw [← hd, hd', mul_zero]
+    linarith only [h', hd, Nat.le_mul_of_pos_right (m := finrank F L) (Nat.pos_of_ne_zero hd')]
+  let P : IntermediateField F E → Prop := fun K ↦ finSepDegree F K = finrank F K
```
Comment (alreadydone) [inline Mathlib/FieldTheory/SeparableDegree.lean:587]: (optional) Lean 4 supports the syntax
```suggestion
  let P (K : IntermediateField F E) : Prop := finSepDegree F K = finrank F K
```

**Review by alreadydone — APPROVED** [review]
Just a few more nits I missed ...

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 48 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/SeparableDegree.lean:109]: But `mem_adjoin_simple_self` -> `mem_simple_self` sounds strange ...

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 50]
```diff
@@ -18,78 +18,108 @@ This file contains basics about the separable degree of a field extension.
...
+- `Field.Emb F E`: the type of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`
+  (the algebraic closure of `F` is usually used in the literature, but our definition has the
+  advantage that `Field.Emb F E` lies in the same universe as `E` rather than the maximum over `F`
+  and `E`). Usually denoted by $\operatorname{Emb}_F(E)$ in textbooks.
+
+  **Remark:** if `E / F` is not algebraic, then this definition makes no mathematical sense,
+  and if it is infinite, then its cardinality doesn't behave as expected (namely, not equal to the
+  field extension degree of `separableClosure F E / F`). For example,
+  $\operatorname{Emb}_{\mathbb{Q}}(\mathbb{Q}(\mu_{p^\infty}))\cong\mathbb{Z}_p^\times$ which is
+  uncontable, while $[\mathbb{Q}(\mu_{p^\infty}):\mathbb{Q}]$ is countable.
```
Comment (jcommelin) [inline Mathlib/FieldTheory/SeparableDegree.lean:30]:
```suggestion
  uncountable, while $[\mathbb{Q}(\mu_{p^\infty}):\mathbb{Q}]$ is countable.
```

**Review by jcommelin — APPROVED** [review]

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
